US07220856B2
Preparation of [(3S)-1′-(4-fluorophenyl)hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester (According to Tetrahedron Lett., 1998, 39, 2933–2936):
The mixture of [(3R)-hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester 400 mg), 4-fluorophenylboronic acid (200 mg), Et3N (0.3 mL), and CuI (150 mg) in CH2Cl2 (5 mL) are mixture at rt for 4 days. The reaction mixture was diluted with brine, extracted with EtOAc, and dried. Concentration followed by flash chromatograph afforded the product (180 mg).

reactant | [(3R)-hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester | 400 mg | O=C1NCCCC[C@H]1NC(OC(C)(C)C)=O | C11H20N2O3
reactant | 4-fluorophenylboronic acid | 200 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Et3N | 0.3 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
catalyst | CuI | 150 mg | [Cu]I
product | [(3S)-1′-(4-fluorophenyl)hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid, 1,1-dimethylethyl ester | 180 mg | FC1=CC=C(C=C1)N1C([C@H](CCCC1)NC(OC(C)(C)C)=O)=O | C17H23FN2O3
